US04498964
Preparation of 1-benzoyl-1-hydroxycyclohex-3-ene by the Diels-Alder synthesis
If the 1-phenyl-2-trimethylsiloxyprop-2-en-1-one is reacted with isoprene instead of butadiene, an analogous procedure gives an oily product which, after bulb tube distillation (150°/0.06 mm Hg), gave the following analysis:

reactant | 1-phenyl-2-trimethylsiloxyprop-2-en-1-one | C1(=CC=CC=C1)C(C(=C)O[Si](C)(C)C)=O | C12H16O2Si
reactant | isoprene | C=CC(C)=C | C5H8
product | 1-benzoyl-1-hydroxycyclohex-3-ene | C(C1=CC=CC=C1)(=O)C1(CC=CCC1)O | C13H14O2
